US06375926B1
Step F S-Triphenylmethyl 2-Methoxyethanethiol (Compound 11)
To sodium hydride (2.17 g, 0.09 mol) under nitrogen was added anhydrous THF (50 ml). The mixture was cooled to 0° C. and triphenylmethylmercaptan (24.88 g, 0.09 mol) in anhydrous THF (50 ml) added dropwise over 15 minutes. After a further 10 minutes at 0° C. the mixture was warmed to room temperature, at which it was stirred for 1 hour. The mixture was then recooled to 0° C. and ethylene glycol methyl ether tosylate (20.72 g, 0.09 mol) in dry THF (50 ml) added dropwise over 15 minutes. After warming to room temperature the mixture was left to stir for 16 hours. The mixture was filtered and the precipitate washed with dichloromethane. The combined filtrates were concentrated in vacuo. The residue was dissolved in dichloromethane, washed with water (3×50 ml), dried (Na2SO4) and concentrated in vacuo. Purification by flash column chromatography (gradient from 100% petrol to 100% EtOAc) and recrystallisation (petrol) gave the title compound (12.39 g, 41%) as a pale brown solid.

reactant | sodium hydride | 0.09 mol, 2.17 g | [H-].[Na+]
reactant | triphenylmethylmercaptan | 0.09 mol, 24.88 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)S | C19H16S
reactant | ethylene glycol methyl ether tosylate | 0.09 mol, 20.72 g | S(=O)(=O)(OCCOC)C1=CC=C(C)C=C1 | C10H14O4S
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | S-Triphenylmethyl 2-Methoxyethanethiol | 12.39 g, 41% | C1(=CC=CC=C1)C(SCCOC)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H22OS
